US05536737
e) (S)-2-[[(S)-2-(Hydroxyacetyl)-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide
(S)-2-[[(S)-2-[(p-Methoxyphenoxy)acetyl]-1-pyrrolidinyl] -carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide (500 mg) was dissolved in acetonitrile (8 ml) and water (2 ml), and thereto were added pyridine (0.22 ml) and ammonium cerium nitrate (1.47 g). The mixture was stirred at room temperature for 30 minutes. The mixture was poured into ice water and extracted with methylene chloride. The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol) to give the title compound (203 mg) (see Table 1).

reactant | (S)-2-[[(S)-2-[(p-Methoxyphenoxy)acetyl]-1-pyrrolidinyl] -carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide | 500 mg | COC1=CC=C(OCC(=O)[C@H]2N(CCC2)C(=O)[C@H]2N(CCC2)C(=O)NCC2=CC=CC=C2)C=C1 | C26H31N3O5
reactant | pyridine | 0.22 ml | N1=CC=CC=C1 | C5H5N
reactant | ammonium cerium nitrate | 1.47 g | [N+](=O)([O-])[O-].[Ce].[NH4+]
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | water | 2 ml | O | H2O
product | (S)-2-[[(S)-2-(Hydroxyacetyl)-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide | 203 mg | OCC(=O)[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1 | C19H25N3O4
